US07749992B2
Step 2. Preparation of (+/−) (3,5-Bis-trifluoromethyl-benzyl)-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-amine
A mixture of (+/−)1-(Toluene-4-sulfonyl)-1,2,3,4-tetrahydro-benzo[b]azepin-5-one (500 mg, 1.58 mmol), 3,5-Bis(trifluoromethyl)benzylamine (423 mg, 1.74 mmol) and titanium(IV) isopropoxide (0.59 ml, 1.97 mmol) in diglyme (2 ml) is stirred at room temperature for 22 hours. The mixture is diluted with methanol (7 ml) and treated with sodium borohydride (90 mg, 2.37 mmol), then stirred at room temperature for 6 hours. The mixture is treated with 0.1N aqueous NaOH (15 ml) and stirred for 10 minutes, then filtered. The filter cake is washed with 1:1 ethanol:diethyl ether. The filtrate is diluted with water (70 ml) and extracted with ethyl acetate (2×30 ml). The combined organic extracts are washed with brine, dried (Na2SO4) and concentrated to an oil. The oil is purified by silica gel column chromatography (eluent, 15% ethyl acetate in hexanes) to give the title compound as a solid. Mass spectrum (ES+): 543 (M+H).

reactant | (+/−)1-(Toluene-4-sulfonyl)-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 1.58 mmol, 500 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C2=C(C(CCC1)=O)C=CC=C2)C | C17H17NO3S
reactant | 3,5-Bis(trifluoromethyl)benzylamine | 1.74 mmol, 423 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium borohydride | 2.37 mmol, 90 mg | [BH4-].[Na+]
reactant | NaOH | 0.1N, 15 ml | [OH-].[Na+]
solvent | diglyme | 2 ml | COCCOCCOC | C6H14O3
solvent | methanol | 7 ml | CO | CH4O
catalyst | titanium(IV) isopropoxide | 1.97 mmol, 0.59 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (+/−) (3,5-Bis-trifluoromethyl-benzyl)-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-amine | FC(C=1C=C(CNC2C3=C(N(CCC2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC=C3)C=C(C1)C(F)(F)F)(F)F | C26H24F6N2O2S
